US05019596
Preparation of arginine mercaptoethansulphonate
12 g of sodium mercaptoethansulphonate are freed in aqueous solution and under nitrogen stream in a column, as described in the example 1. The mercaptoethansulphonic acid coming out of the column in aqueous solution, under nitrogen stream and at pH=1, is gradually added with arginine, in free base form, in stoichiometrical amount dissolved in water under nitrogen stream (12.7 g), by operating at pH values of between 6 and 7. Upon the salification is completed the pH of the solution of the salt must be of between 6 and 7. The solution is then concentrated to dryness giving a residue which, upon being taken with 200 ml of absolute ethanol, under stirring and in hot condition, is converted into white crystals. The suspension is agitated at 50° C. for 30 minutes, then cooled and filtered, whereby 22.8 g of white crystalline product are obtained, with a 98% yield and a melting point of 214°-216° C.; the pH in 10% aqueous solution is 6.7 and the solubility in water is perfect.

reactant | sodium mercaptoethansulphonate | 12 g | SC(C)S(=O)(=O)[O-].[Na+]
reactant | mercaptoethansulphonic acid | SC(C)S(=O)(=O)O | C2H6O3S2
reactant | arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | arginine mercaptoethansulphonate | 22.8 g, 98% yield | SC(C)S(=O)(=O)O.N[C@@H](CCCNC(N)=N)C(=O)O | InChI=1S/C6H14N4O2.C2H6O3S2/c7-4(5(11)12)2-1-3-10-6(8)9;1-2(6)7(3,4)5/h4H,1-3,7H2,(H,11,12)(H4,8,9,10);2,6H,1H3,(H,3,4,5)/t4-;/m0./s1
